US03944531
2-bromo-6-methyl-heptane was reacted with p-methoxy-phenol to obtain p-[(1,5-dimethyl-hexyl)-oxy]-anisole (boiling point = 170°-172°C/1.0 mmHg);

reactant | 2-bromo-6-methyl-heptane | BrC(C)CCCC(C)C | C8H17Br
reactant | p-methoxy-phenol | COC1=CC=C(C=C1)O | C7H8O2
product | p-[(1,5-dimethyl-hexyl)-oxy]-anisole | CC(CCCC(C)C)OC1=CC=C(C=C1)OC | C15H24O2
